US05366987
(±)-N-(2,4,-difluorophenyl)-3-dodecyl-α-phenyl-5-isoxazole acetamide
In a manner similar to Example 128, a mixture of 3-dodecyl-α-phenyl-5-isoxazole acetic acid and 5-dodecyl-α-phenyl-3-isoxazole acetic acid was condensed with 2,4-difluoroaniline to give, after chromatography, pure title compound; mp 68°-70° C.

reactant | 3-dodecyl-α-phenyl-5-isoxazole acetic acid | C(CCCCCCCCCCC)C1=NOC(=C1)C(C(=O)O)C1=CC=CC=C1 | C23H33NO3
reactant | 5-dodecyl-α-phenyl-3-isoxazole acetic acid | C(CCCCCCCCCCC)C1=CC(=NO1)C(C(=O)O)C1=CC=CC=C1 | C23H33NO3
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
product | (±)-N-(2,4,-difluorophenyl)-3-dodecyl-α-phenyl-5-isoxazole acetamide | FC1=C(C=CC(=C1)F)NC(C(C1=CC(=NO1)CCCCCCCCCCCC)C1=CC=CC=C1)=O | C29H36F2N2O2
